US05536821
N-1-trifluoroacetylethyldiamine (CF3CONH(CH2)2NH2 is prepared by adding ethyltrifluoroacetate (1.2 ml, 10 mmol) dropwise over one hour to a stirred mixture of ethylenediamine (0.6 g; 10 mmol) and triethylamine (1 ml; 7 mmol) in 20 ml methanol. The solution is stirred overnight. After removal of solvents, the reaction mixture is flash chromatographed on silica using 0-25% methanol in dichloromethane. The fractions containing the desired product are pooled and concentrated to give a colorless product.

reactant | ethyltrifluoroacetate | 10 mmol, 1.2 ml | C(C)OC(C(F)(F)F)=O | C4H5F3O2
reactant | ethylenediamine | 10 mmol, 0.6 g | C(CN)N | C2H8N2
reactant | triethylamine | 7 mmol, 1 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 20 ml | CO | CH4O
product | CF3CONH(CH2)2NH2 | C(F)(F)(F)C(=O)NCCN | C4H7F3N2O
